US04200641
To a stirred and hot (50° C.) mixture of 47 parts of 1,3-dihydro-6-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one and 5 parts of N,N,N-triethylbenzenemethanaminium chloride in 300 parts of a sodium hydroxide solution 50% are added 79 parts of 1-bromo-3-chloropropane. The whole is heated to 60° C.; exothermic reaction (temperature rises to 75° C.). Stirring is continued for one hour while cooling to keep the temperature between 60° and 70° C. The reaction mixture is cooled and poured onto crushed ice. The product is extracted with methylbenzene. The extract is washed three times with water, dried, filtered and evaporated. The oily residue is distilled, yielding 1-(3-chloropropyl)-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one; bp. 140° C. at 0.015 mm. pressure.

reactant | 1,3-dihydro-6-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one | CC=1C=CC2=C(N(C(N2)=O)C(=C)C)C1 | C11H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 1-(3-chloropropyl)-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC(=C2)C)C(=C)C)=O | C14H17ClN2O
